US06017919
3,4-Dihexyloxybenzoic acid (161 mg, 0.5 mmol) and 1-hydroxy-benzotriazole hydrate (45.9 mg, 0.3 mmol, 0.6 eq) were dissolved in DMF (5 ml), and to this solution were successively added 2-(4-hydroxyphenyl)ethylamine (82 mg, 0.6 mmol, 1.2 eq) and WSC hydrochloride (114 mg, 0.6 mmol, 1.2 eq) at room temperature. The mixture was stirred at room temperature for 15 hours. This reaction mixture was poured into ethyl acetate (75 ml), washed with water (5 ml×3) and saturated brine (15 ml). The organic layerwas dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (chloroform/methanol=50/1) to give 3,4-dihexyloxy-N-[2-(4-hydroxyphenyl)ethyl]benzamide (230 mg). The obtained solid was recrystallized from ethyl acetate-hexane to give 3,4-dihexyloxy-N-[2-(4-hydroxyphenyl)ethyl]benzamide (194 mg, 88%) as colorless crystals.

reactant | 3,4-Dihexyloxybenzoic acid | 0.5 mmol, 161 mg | C(CCCCC)OC=1C=C(C(=O)O)C=CC1OCCCCCC | C19H30O4
reactant | 1-hydroxy-benzotriazole hydrate | 0.3 mmol, 45.9 mg, 0.6 eq | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(4-hydroxyphenyl)ethylamine | 0.6 mmol, 82 mg, 1.2 eq | OC1=CC=C(C=C1)CCN | C8H11NO
reactant | WSC hydrochloride | 0.6 mmol, 114 mg, 1.2 eq | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 3,4-dihexyloxy-N-[2-(4-hydroxyphenyl)ethyl]benzamide | 230 mg | C(CCCCC)OC=1C=C(C(=O)NCCC2=CC=C(C=C2)O)C=CC1OCCCCCC | C27H39NO4
